### PR TITLE
[Merged by Bors] - feat(NumberTheory/Fermat): Fermat numbers

### PR DESCRIPTION
**Pull request by mo271**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Fermat.lean [hunk 1]
```diff
@@ -0,0 +1,79 @@
...
+
+## Main theorems
+  `coprime_fermat_fermat`: two distinct fermat numbers are coprime.
+-/
+open Nat
+open scoped BigOperators
+
+/-- The Fermat numbers:
+the $n$-th Fermat number $F_n$ is defined as $2^{2^n} + 1$. -/
+def fermat : ℕ → ℕ := fun n ↦ 2 ^ (2 ^ n) + 1
```
Comment (vihdzp) [inline Mathlib/NumberTheory/Fermat.lean:26]:
```suggestion
def fermat (n : ℕ) : ℕ := 2 ^ (2 ^ n) + 1
```

File: Mathlib/NumberTheory/Fermat.lean [hunk 2]
```diff
@@ -0,0 +1,79 @@
...
+
+@[simp]
+theorem fermat_zero : fermat 0 = 3 := by rfl
+
+@[simp]
+theorem fermat_one : fermat 1 = 5 := by rfl
+
+@[simp]
+theorem fermat_two : fermat 2 = 17 := by rfl
```
Comment (vihdzp) [inline Mathlib/NumberTheory/Fermat.lean:35]: Since these are pretty trivial lemmas I think it's fine to have them grouped together like this:
```suggestion
@[simp] theorem fermat_zero : fermat 0 = 3 := rfl
@[simp] theorem fermat_one : fermat 1 = 5 := rfl
@[simp] theorem fermat_two : fermat 2 = 17 := rfl
```

File: Mathlib/NumberTheory/Fermat.lean [hunk 3]
```diff
@@ -0,0 +1,79 @@
...
+/-!
+# Fermat numbers
+
+The Fermat numbers are a sequence of natural numbers defined as $2^{2^n} + 1$, for all natural
+numbers $n$.
+
+## Main theorems
+  `coprime_fermat_fermat`: two distinct fermat numbers are coprime.
+-/
+open Nat
```
Comment (vihdzp) [inline Mathlib/NumberTheory/Fermat.lean:21]:
```suggestion
## Main theorems

- `coprime_fermat_fermat`: two distinct fermat numbers are coprime.
-/

open Nat
```

File: Mathlib/NumberTheory/Fermat.lean [hunk 4]
```diff
@@ -0,0 +1,79 @@
...
+  cases n
+  · simp
+  · exact lt_of_succ_lt <| strictMono_fermat <| zero_lt_succ _
+
+theorem odd_fermat {n : ℕ} : Odd (fermat n) := by
+  rw [fermat, ← Nat.not_even_iff_odd, Nat.even_add_one, not_not, Nat.even_pow]
+  refine ⟨even_two, Nat.ne_of_gt (pow_pos zero_lt_two _)⟩
+
+@[simp]
+theorem fermat_product {n : ℕ} : ∏ k in Finset.range n, fermat k = fermat n - 2 := by
```
Comment (vihdzp) [inline Mathlib/NumberTheory/Fermat.lean:52]: a) Does this make sense as a `simp` lemma? I can't imagine you're going to come across the LHS much, even within this file.
b) I'd imagine `fermat_eq_prod_add_two` is the more useful lemma, since it avoids natural subtraction (and it's the one you use for `coprime_fermat_fermat`).

File: Mathlib/NumberTheory/Fermat.lean [hunk 5]
```diff
@@ -0,0 +1,79 @@
...
+  rw [Finset.prod_range_succ, hn, fermat, fermat, mul_comm,
+    (show 2 ^ 2 ^ n + 1 - 2 = 2 ^ 2 ^ n - 1 by omega),  ← Nat.sq_sub_sq]
+  ring_nf
+  omega
+
+theorem  fermat_eq_prod_add_two {n : ℕ} :  fermat n = (∏ k in Finset.range n, fermat k) + 2 := by
+  rw [fermat_product, Nat.sub_add_cancel]
+  exact le_of_lt two_lt_fermat
+
+/-- **Goldbach's theorem** : no two distinct Fermat numbers share a common factor greater
```
Comment (vihdzp) [inline Mathlib/NumberTheory/Fermat.lean:64]: I hadn't ever heard of this name for this theorem, and Google seems to have the same opinion - every single result I'm finding is for Goldbach's conjecture instead. Is this name used in any literature?

**Review by vihdzp — COMMENTED** [review]
Congrats on getting number 17,000! Here's some initial remarks.

File: Mathlib/NumberTheory/Fermat.lean [hunk 6]
```diff
@@ -0,0 +1,79 @@
...
+
+@[simp]
+theorem fermat_two : fermat 2 = 17 := by rfl
+
+theorem strictMono_fermat : StrictMono fermat := by
+  apply strictMono_nat_of_lt_succ
+  simp only [fermat, add_lt_add_iff_right, Nat.pow_succ]
+  exact fun n => (pow_lt_pow_iff_right one_lt_two).mpr (by aesop)
+
+theorem two_lt_fermat {n : ℕ} : 2 < fermat n := by
```
Comment (vihdzp) [inline Mathlib/NumberTheory/Fermat.lean:42]: Is this a more useful statement than `3 ≤ fermat n`?

File: Mathlib/NumberTheory/Fermat.lean [hunk 7]
```diff
@@ -0,0 +1,79 @@
...
+@[simp]
+theorem fermat_product {n : ℕ} : ∏ k in Finset.range n, fermat k = fermat n - 2 := by
+  induction' n with n hn
+  · trivial
+  rw [Finset.prod_range_succ, hn, fermat, fermat, mul_comm,
+    (show 2 ^ 2 ^ n + 1 - 2 = 2 ^ 2 ^ n - 1 by omega),  ← Nat.sq_sub_sq]
+  ring_nf
+  omega
+
+theorem  fermat_eq_prod_add_two {n : ℕ} :  fermat n = (∏ k in Finset.range n, fermat k) + 2 := by
```
Comment (vihdzp) [inline Mathlib/NumberTheory/Fermat.lean:60]:
```suggestion
theorem fermat_eq_prod_add_two {n : ℕ} : fermat n = (∏ k in Finset.range n, fermat k) + 2 := by
```

File: Mathlib/NumberTheory/Fermat.lean [hunk 8]
```diff
@@ -0,0 +1,79 @@
...
+  · exact lt_of_succ_lt <| strictMono_fermat <| zero_lt_succ _
+
+theorem odd_fermat {n : ℕ} : Odd (fermat n) := by
+  rw [fermat, ← Nat.not_even_iff_odd, Nat.even_add_one, not_not, Nat.even_pow]
+  refine ⟨even_two, Nat.ne_of_gt (pow_pos zero_lt_two _)⟩
+
+@[simp]
+theorem fermat_product {n : ℕ} : ∏ k in Finset.range n, fermat k = fermat n - 2 := by
+  induction' n with n hn
+  · trivial
```
Comment (vihdzp) [inline Mathlib/NumberTheory/Fermat.lean:54]:
```suggestion
  · rfl
```

File: Mathlib/NumberTheory/Fermat.lean (hunk 5 above)
Comment (mo271) [reply Mathlib/NumberTheory/Fermat.lean:64]: it is mentioned in wikipedia:
https://en.wikipedia.org/wiki/Fermat_number
and here
https://proofwiki.org/wiki/Goldbach%27s_Theorem
A search for "Goldbach's theorem" fermat numbers also give many books

File: Mathlib/NumberTheory/Fermat.lean (hunk 4 above)
Comment (mo271) [reply Mathlib/NumberTheory/Fermat.lean:52]: a) not super sure, but it seems to be a somewhat simple lhs. For the next lemma in this file, we could use this simp. But I'm happy to remove it if you think
b) yeah, since I use `fermat_product` in the proof anyhow, I thought I might as well give it a name.

File: Mathlib/NumberTheory/Fermat.lean (hunk 6 above)
Comment (mo271) [reply Mathlib/NumberTheory/Fermat.lean:39]: I think both are equally useful, but having both seems like an overkill. I added this one, because I though `fermat n - 2` might appear in more than one theorem on fermat numbers and this way, one can easily remove the nat subtraction, but of course it would also be easy to do that if three_le_fermat was present.

**Comment by acmepjz** [comment]
What is the relation of this PR with #14874?

**Comment by mo271** [comment]
> What is the relation of this PR with #14874?

I was not aware of that, but the results are different. 
Happy to rebase is either way. I think for #14874 it would be good if they used the terminology introduced here.

File: Mathlib/NumberTheory/Fermat.lean [hunk 9]
```diff
@@ -0,0 +1,76 @@
...
+  exact fun n => (pow_lt_pow_iff_right one_lt_two).mpr (by aesop)
+
+theorem two_lt_fermat {n : ℕ} : 2 < fermat n := by
+  cases n
+  · simp
+  · exact lt_of_succ_lt <| strictMono_fermat <| zero_lt_succ _
+
+theorem odd_fermat {n : ℕ} : Odd (fermat n) := by
+  rw [fermat, ← Nat.not_even_iff_odd, Nat.even_add_one, not_not, Nat.even_pow]
+  refine ⟨even_two, Nat.ne_of_gt (pow_pos zero_lt_two _)⟩
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Fermat.lean:46]:
```suggestion
theorem odd_fermat {n : ℕ} : Odd (fermat n) := 
  (even_pow.mpr ⟨even_two, (pow_pos two_pos n).ne'⟩).add_one
```

**Review by loefflerd — COMMENTED** [review]
This is good material to have. I've left some minor suggestions; happy to recommend merging once those are applied.

File: docs/references.bib [hunk 10]
```diff
@@ -2088,6 +2088,14 @@ @Article{         Joyce1982
   publisher     = {Elsevier {BV}}
 }
 
+@Book{            juvskevivc2022,
```
[the remark this answers is not in the document]
Comment (mo271) [reply docs/references.bib:2091]: good point, fixed

File: Mathlib/NumberTheory/Fermat.lean [hunk 11]
```diff
@@ -0,0 +1,76 @@
...
+import Mathlib.Algebra.Order.Ring.Basic
+import Mathlib.Algebra.Order.Star.Basic
+import Mathlib.Data.Nat.Prime.Defs
+import Mathlib.Tactic.Ring.RingNF
+
+/-!
+# Fermat numbers
+
+The Fermat numbers are a sequence of natural numbers defined as $2^{2^n} + 1$, for all natural
+numbers $n$.
```
[the remark this answers is not in the document]
Comment (mo271) [reply Mathlib/NumberTheory/Fermat.lean:16]: ok, fixed. 
When I wrote the docstring I looked a the doc string for the Bernoulli numbers and there is lots of latex

File: Mathlib/NumberTheory/Fermat.lean [hunk 12]
```diff
@@ -0,0 +1,76 @@
...
+
+## Main theorems
+
+- `coprime_fermat_fermat`: two distinct fermat numbers are coprime.
```
[the remark this answers is not in the document]
Comment (mo271) [reply Mathlib/NumberTheory/Fermat.lean:20]: sure, fixed

File: Mathlib/NumberTheory/Fermat.lean [hunk 13]
```diff
@@ -0,0 +1,76 @@
...
+@[simp] theorem fermat_zero : fermat 0 = 3 := rfl
+@[simp] theorem fermat_one : fermat 1 = 5 := rfl
+@[simp] theorem fermat_two : fermat 2 = 17 := rfl
+
+theorem strictMono_fermat : StrictMono fermat := by
+  apply strictMono_nat_of_lt_succ
+  simp only [fermat, add_lt_add_iff_right, Nat.pow_succ]
+  exact fun n => (pow_lt_pow_iff_right one_lt_two).mpr (by aesop)
+
+theorem two_lt_fermat {n : ℕ} : 2 < fermat n := by
```
[the remark this answers is not in the document]
Comment (mo271) [reply Mathlib/NumberTheory/Fermat.lean:38]: ok, fixed. 
I had kinda thought that if `fermat n` appears, it would be enough to infer it, but of course I suppose often it might appear not in this form, but just as number.

File: Mathlib/NumberTheory/Fermat.lean (hunk 4 above)
Comment (mo271) [reply Mathlib/NumberTheory/Fermat.lean:47]: removed `simp`

**Comment by mo271** [comment]
Thanks for the review, @loefflerd!

File: Mathlib/NumberTheory/Fermat.lean (hunk 11 above)
[the remark this answers is not in the document]
Comment (loefflerd) [reply Mathlib/NumberTheory/Fermat.lean]: The Bernoulli file has some much more complicated formulae (which would become unreadable when squashed onto one line). That doesn't apply here. Please kill the remaining `$` signs and put formulae in backticks `2^(2^n) + 1` etc.

File: Mathlib/NumberTheory/Fermat.lean (hunk 13 above)
[the remark this answers is not in the document]
Comment (loefflerd) [reply Mathlib/NumberTheory/Fermat.lean]: The general rule is that arguments can be implicit if they can be inferred from *other explicit arguments*, not from the type of the conclusion (with an exception for `Iff` lemmas when you can implicit things if they can be inferred from other arguments + the type of either half of the "iff").

File: Mathlib/NumberTheory/Fermat.lean [hunk 14]
```diff
@@ -0,0 +1,71 @@
...
+import Mathlib.Algebra.BigOperators.Group.Finset
+import Mathlib.Algebra.Order.Ring.Basic
+import Mathlib.Algebra.Order.Star.Basic
+import Mathlib.Data.Nat.Prime.Defs
+import Mathlib.Tactic.Ring.RingNF
+
+/-!
+# Fermat numbers
+
+The Fermat numbers are a sequence of natural numbers defined as 2^{2^n} + 1, for all natural
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Fermat.lean:15]:
```suggestion
The Fermat numbers are a sequence of natural numbers defined as `fermat n = 2^(2^n) + 1`, for all natural
```

File: Mathlib/NumberTheory/Fermat.lean [hunk 15]
```diff
@@ -0,0 +1,71 @@
...
+
+- `coprime_fermat_fermat`: two distinct Fermat numbers are coprime.
+-/
+
+open Nat Finset
+open scoped BigOperators
+
+/-- The Fermat numbers:
+the $n$-th Fermat number $F_n$ is defined as $2^{2^n} + 1$. -/
+def fermat (n : ℕ) : ℕ := 2 ^ (2 ^ n) + 1
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Fermat.lean:28]:
```suggestion
/-- Fermat numbers: the `n`-th Fermat number is defined as `2^(2^n) + 1`. -/
def fermat (n : ℕ) : ℕ := 2 ^ (2 ^ n) + 1
```

**Review by loefflerd — COMMENTED** [review]
Here are the last couple of (very pedantic) corrections.

File: Mathlib/NumberTheory/Fermat.lean [hunk 16]
```diff
@@ -0,0 +1,70 @@
...
+theorem fermat_eq_prod_add_two (n : ℕ) : fermat n = (∏ k in range n, fermat k) + 2 := by
+  rw [fermat_product, Nat.sub_add_cancel]
+  exact le_of_lt <| two_lt_fermat _
+
+/--
+**Goldbach's theorem** : no two distinct Fermat numbers share a common factor greater than one.
+
+From a letter to Euler, see page 37 in [juskevic2022].
+-/
+theorem coprime_fermat_fermat  {k n : ℕ} (h : k ≠ n): Coprime (fermat n) (fermat k) := by
```
Comment (vihdzp) [inline Mathlib/NumberTheory/Fermat.lean:62]:
```suggestion
theorem coprime_fermat_fermat {k n : ℕ} (h : k ≠ n): Coprime (fermat n) (fermat k) := by
```

File: Mathlib/NumberTheory/Fermat.lean [hunk 17]
```diff
@@ -0,0 +1,70 @@
...
+theorem fermat_eq_prod_add_two (n : ℕ) : fermat n = (∏ k in range n, fermat k) + 2 := by
+  rw [fermat_product, Nat.sub_add_cancel]
+  exact le_of_lt <| two_lt_fermat _
+
+/--
+**Goldbach's theorem** : no two distinct Fermat numbers share a common factor greater than one.
+
+From a letter to Euler, see page 37 in [juskevic2022].
+-/
+theorem coprime_fermat_fermat {k n : ℕ} (h : k ≠ n): Coprime (fermat n) (fermat k) := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Fermat.lean:62]:
```suggestion
theorem coprime_fermat_fermat {k n : ℕ} (h : k ≠ n) : Coprime (fermat n) (fermat k) := by
```

**Comment by loefflerd** [comment]
Thanks for your patience with all these pedantic formatting corrections! I think this is good to go now

maintainer merge

**Review by Vierkantor — APPROVED** [review]
Nice work and congratulations on the round number!

bors d+

**Comment by mo271** [comment]
bors r+

(I swear I didn't make it the round number on purpose, it was just a coincident. Perhaps I should have waited for the next Fermat number #65537.)
